US05372746
5.9 ml of a 1.6N butyllithium solution in hexane were added dropwise during 20 min. to a solution of 2.14 g of 1-(trans-4-propylcyclohexyl)-3,5-difluorobenzene in 20 ml of dry detrahydrofuran at -70° C. and the mixture was left to react at -70° C. for 1 hr. Then, a solution of 2.4 g of iodine in 10 ml of dry tetrahydrofuran was added dropwise at -60° C. within 10 min. and the mixture was gradually warmed to room temperature during a further 30 min. The yellow solution obtained was treated with 10 ml of water and then with 10 ml of a 10 percent aqueous sodium bicarbonate solution extracted with ether. The ether solution was washed with sat. sodium chloride solution and several times with water, dried over magnesium sulphate, filtered and concentrated. Chromatography of the residue over 150 g of silica gel with hexane gave 3.27 g of 1-(trans-4-propylcyclohexyl)-3,5-difluoro-4-iodobenzene as a colourless liquid.

reactant | butyllithium | 1.6N | C(CCC)[Li]
reactant | 1-(trans-4-propylcyclohexyl)-3,5-difluorobenzene | 2.14 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=CC(=C1)F)F | C15H20F2
reactant | iodine | 2.4 g | II | I2
reactant | water | 10 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(trans-4-propylcyclohexyl)-3,5-difluoro-4-iodobenzene | 3.27 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)I)F | C15H19F2I
